* GTKWave TIM to ngspice PWL converter (SQUARE WAVES)
* Source: Mult_4.tim
* Time Scale: 1e-12 seconds
* VDD Level: 1.8V
* Signals: 7

* clk - 100 transitions
V_clk clk 0 PWL(0 0 9.99999e-09 0 1e-08 1.8 1.999999e-08 1.8 2e-08 0 2.9999989999999994e-08 0 3e-08 1.8 3.999999e-08 1.8 4e-08 0 4.9999989999999995e-08 0 5e-08 1.8 5.999999e-08 1.8 6e-08 0 6.999999000000001e-08 0 7e-08 1.8 7.999999e-08 1.8 8e-08 0 8.999999e-08 0 9e-08 1.8 9.999999e-08 1.8 1e-07 0 1.0999999e-07 0 1.0999999999999999e-07 1.8 1.1999998999999998e-07 1.8 1.2e-07 0 1.2999999e-07 0 1.3e-07 1.8 1.3999999e-07 1.8 1.4e-07 0 1.4999998999999998e-07 0 1.5e-07 1.8 1.5999999e-07 1.8 1.6e-07 0 1.6999998999999998e-07 0 1.7e-07 1.8 1.7999999e-07 1.8 1.8e-07 0 1.8999999e-07 0 1.9e-07 1.8 1.9999998999999998e-07 1.8 2e-07 0 2.0999999e-07 0 2.1e-07 1.8 2.1999998999999997e-07 1.8 2.1999999999999998e-07 0 2.2999998999999999e-07 0 2.3e-07 1.8 2.3999999e-07 1.8 2.4e-07 0 2.4999999e-07 0 2.5e-07 1.8 2.5999999e-07 1.8 2.6e-07 0 2.6999999e-07 0 2.7e-07 1.8 2.7999999000000004e-07 1.8 2.8e-07 0 2.8999999e-07 0 2.9e-07 1.8 2.9999999e-07 1.8 3e-07 0 3.0999999e-07 0 3.1e-07 1.8 3.1999999e-07 1.8 3.2e-07 0 3.2999999000000003e-07 0 3.3e-07 1.8 3.3999999e-07 1.8 3.4e-07 0 3.4999999e-07 0 3.5e-07 1.8 3.5999999e-07 1.8 3.6e-07 0 3.6999999e-07 0 3.7e-07 1.8 3.7999999000000003e-07 1.8 3.8e-07 0 3.8999999e-07 0 3.8999999999999997e-07 1.8 3.9999999e-07 1.8 4e-07 0 4.0999999e-07 0 4.1e-07 1.8 4.1999999e-07 1.8 4.2e-07 0 4.2999999000000003e-07 0 4.3e-07 1.8 4.3999999e-07 1.8 4.3999999999999997e-07 0 4.4999999e-07 0 4.5e-07 1.8 4.5999999e-07 1.8 4.6e-07 0 4.6999999e-07 0 4.7e-07 1.8 4.799999899999999e-07 1.8 4.8e-07 0 4.899999899999999e-07 0 4.9e-07 1.8 4.999999899999999e-07 1.8 5e-07 0 5.0999999e-07 0 5.1e-07 1.8 5.1999999e-07 1.8 5.2e-07 0 5.2999999e-07 0 5.3e-07 1.8 5.3999999e-07 1.8 5.4e-07 0 5.4999999e-07 0 5.5e-07 1.8 5.5999999e-07 1.8 5.6e-07 0 5.699999899999999e-07 0 5.699999999999999e-07 1.8 5.799999899999999e-07 1.8 5.8e-07 0 5.899999899999999e-07 0 5.9e-07 1.8 5.999999899999999e-07 1.8 6e-07 0 6.099999899999999e-07 0 6.1e-07 1.8 6.1999999e-07 1.8 6.2e-07 0 6.2999999e-07 0 6.3e-07 1.8 6.3999999e-07 1.8 6.4e-07 0 6.4999999e-07 0 6.5e-07 1.8 6.5999999e-07 1.8 6.6e-07 0 6.699999899999999e-07 0 6.699999999999999e-07 1.8 6.799999899999999e-07 1.8 6.8e-07 0 6.899999899999999e-07 0 6.9e-07 1.8 6.999999899999999e-07 1.8 7e-07 0 7.099999899999999e-07 0 7.1e-07 1.8 7.1999999e-07 1.8 7.2e-07 0 7.2999999e-07 0 7.3e-07 1.8 7.3999999e-07 1.8 7.4e-07 0 7.4999999e-07 0 7.5e-07 1.8 7.5999999e-07 1.8 7.6e-07 0 7.699999899999999e-07 0 7.699999999999999e-07 1.8 7.799999899999999e-07 1.8 7.799999999999999e-07 0 7.899999899999999e-07 0 7.9e-07 1.8 7.999999899999999e-07 1.8 8e-07 0 8.099999899999999e-07 0 8.1e-07 1.8 8.1999999e-07 1.8 8.2e-07 0 8.2999999e-07 0 8.3e-07 1.8 8.3999999e-07 1.8 8.4e-07 0 8.4999999e-07 0 8.5e-07 1.8 8.5999999e-07 1.8 8.6e-07 0 8.6999999e-07 0 8.7e-07 1.8 8.799999899999999e-07 1.8 8.799999999999999e-07 0 8.899999899999999e-07 0 8.9e-07 1.8 8.999999899999999e-07 1.8 9e-07 0 9.099999899999999e-07 0 9.1e-07 1.8 9.199999899999999e-07 1.8 9.2e-07 0 9.2999999e-07 0 9.3e-07 1.8 9.3999999e-07 1.8 9.4e-07 0 9.4999999e-07 0 9.5e-07 1.8 9.599999899999999e-07 1.8 9.6e-07 0 9.6999999e-07 0 9.7e-07 1.8 9.7999999e-07 1.8 9.8e-07 0 9.8999999e-07 0 9.9e-07 1.8 9.9999999e-07 1.8 1e-06 0)

* done - 3 transitions
V_done done 0 PWL(0 0 4.1099999000000003e-07 0 4.11e-07 1.8 6.109999899999999e-07 1.8 6.11e-07 0)

* init - 2 transitions
V_init init 0 PWL(0 0 1.2999999e-07 0 1.3e-07 1.8 1.6999998999999998e-07 1.8 1.7e-07 0)

* op_A[3:0] - 0 transitions
V_op_A_3_0_ op_A_3_0_ 0 PWL(0 0)

* op_B[3:0] - 0 transitions
V_op_B_3_0_ op_B_3_0_ 0 PWL(0 0)

* reset - 2 transitions
V_reset reset 0 PWL(0 0 1.999999e-08 0 2e-08 1.8 3.999999e-08 1.8 4e-08 0)

* result[7:0] - 3 transitions
V_result_7_0_ result_7_0_ 0 PWL(0 0 2.4099999e-07 0 2.41e-07 1.8 6.209999899999999e-07 1.8 6.21e-07 0)

* Simulation setup for square waves
.tran 1e-11 1.1e-06

* Plotting
.print tran v(clk) v(done) v(init) v(op_A_3_0_) v(op_B_3_0_) v(reset) v(result_7_0_)

.end
